US05686611
1-[(Diethylphosphonomethoxy)methoxymethyl]thymine (3)
To a solution of 1-[(benzoyloxy)methoxymethyl]thymine (2.9 g, 10 mmol) and diethyl phosphonomethanol (1.85 g, 11 mmol) in benzene (180 mL) was added trimethylsilyl trifluoromethanesulfonate (0.05 mL) via a syringe under nitrogen. The solution was heated at 85° C. for 20 min. After cooling to room temperature, ethyl acetate (50 mL) was added and washed with aqueous bicarbonate, brine dried (MgSO4), filtered and concentrated in vacuo. The resultant yellow oil was purified by silica gel column chromatography using CH2Cl2 /5% MeOH as an eluent to give the title compound as a white oil: yield 980 mg (30%).

reactant | 1-[(benzoyloxy)methoxymethyl]thymine | 10 mmol, 2.9 g | C(C1=CC=CC=C1)(=O)OCOCN1C(=O)NC(=O)C(C)=C1 | C14H14N2O5
reactant | diethyl phosphonomethanol | 11 mmol, 1.85 g | C(C)C(OP(=O)(O)O)CC | C5H13O4P
reactant | trimethylsilyl trifluoromethanesulfonate | 0.05 mL | FC(S(=O)(=O)O[Si](C)(C)C)(F)F | C4H9F3O3SSi
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | benzene | 180 mL | C1=CC=CC=C1 | C6H6
product | 1-[(Diethylphosphonomethoxy)methoxymethyl]thymine | C(C)OP(=O)(OCC)COCOCN1C(=O)NC(=O)C(C)=C1 | C12H21N2O7P
